US06458814B1
c) [2-(3-ethoxycarbonyl-2-phenylpropyl)-1,3-oxazol-4-yl]methyltriphenylphosphonium bromide
A solution of ethyl (±)-4-(4-bromomethyl-1,3-oxazol-2-yl)-3-phenylbutanoate (1.0 g, 2.84 mmole) and PPh3 (745 mg, 2.84 mmole) in dry CH3CN (10 mL) was heated at reflux under N2. After 3 hr, the mixture was cooled to RT and concentrated under reduced pressure. The residue was triturated with Et2O (10 mL) to give the title compound (1.66 g, 95%) as a white powder: MS (ES) m/e 535 (M+H)+.

reactant | ethyl (±)-4-(4-bromomethyl-1,3-oxazol-2-yl)-3-phenylbutanoate | 2.84 mmole, 1.0 g | BrCC=1N=C(OC1)CC(CC(=O)OCC)C1=CC=CC=C1 | C16H18BrNO3
reactant | PPh3 | 2.84 mmole, 745 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | [2-(3-ethoxycarbonyl-2-phenylpropyl)-1,3-oxazol-4-yl]methyltriphenylphosphonium bromide | 1.66 g, 95% | [Br-].C(C)OC(=O)CC(CC=1OC=C(N1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C34H33NO3P.BrH/c1-2-37-34(36)24-28(27-15-7-3-8-16-27)23-33-35-29(25-38-33)26-39(30-17-9-4-10-18-30,31-19-11-5-12-20-31)32-21-13-6-14-22-32;/h3-22,25,28H,2,23-24,26H2,1H3;1H/q+1;/p-1
